US09238631B2
a) Di-tert-butyl (4S)-4-{(E)-3-[4-(benzyloxy)phenyl]prop-2-en-1-yl}-N-(tert-butoxycarbonyl)-L-glutamate
To a stirred solution of di-tert-butyl (4S)-4-allyl-N-(tert-butoxycarbonyl)-L-glutamate (345 mg, 0.86 mmol) in acetonitrile (5 ml) at room temperature was slowly added 1-(benzyloxy)-4-iodobenzene (ABCR GmbH & CO. KG) (321 mg, 1.04 mmol) in 3 ml acetonitrile, triethylamine (144 μl, 1.04 mmol) in 3 ml acetonitrile, and palladium(II) acetate (Aldrich) (39 mg, 0.17 mmol). The mixture was heated in a pressure tube at 80° C. for 2 h. After cooling to room temperature, the mixture was filtered and the filtrate was concentrated in vacuo. The crude material was chromatographed on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl (4S)-4-allyl-N-(tert-butoxycarbonyl)-L-glutamate | 0.86 mmol, 345 mg | C(C=C)[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H37NO6
reactant | 1-(benzyloxy)-4-iodobenzene | 1.04 mmol, 321 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)I | C13H11IO
reactant | triethylamine | 1.04 mmol, 144 μl | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.17 mmol, 39 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Di-tert-butyl (4S)-4-{(E)-3-[4-(benzyloxy)phenyl]prop-2-en-1-yl}-N-(tert-butoxycarbonyl)-L-glutamate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)/C=C/C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C34H47NO7
